US20010009293A1
In a 500 mL round bottom flask, dissolved 3,4-diiodophenylamine (15.31 g, 44.39 mmol) in 30 ml of acetonitrille (CH3CN), followed by the addition of pyridine (5.43 g, 68.66 mmol). To the resulting orange solution, trifluoroacetic anhydride (15.30g, 72.84 mmol) was slowly added with stirring. The solution was allowed to stir for 1 hour. The solution was poured into a 2 L beaker containing 1.5 L ice water. The resulting suspension was vacuum filtered, washed with water and allowed to air dry. The pink solid was then transferred into a tarred round bottom flask and was dried under high vacuum, to obtain 19.44 g (99%) of N-(3,4-diiodophenyl)-2,2,2-trifluoroethanamide as a pink solid. N-(3,4-diiodophenyl)-2,2-2-trifluoroethanamide (19.0 g, 43.09 mmol) was transferred into a 3 neck 250 mL round bottom flask and dissolved in phenyl acetylene (13.14 g, 14.13 mL, 128.68 mmol) with 50 ml of triethylamine (Et3N), followed by the addition of triphenyl phosphine (2.25 g, 8.57 mmol) as a solid. The solution was cooled to −77 C, under argon. The resulting orange solution was allowed to warm up to room temperature and while under an argon flow, a catalytic amount of copper iodide (CuI) (0.35 g, 1.71 mmol) and bis-triphenyl phospine palladium (II) chloride ((((C6H5)3P)2)Cl2) (1.20 g, 1.71 mmol) with 50 mL Et3N was added. The solution was heated to 80° C. with stirring for 12 hours. The dark brown solution was cooled then extracted into ethyl acetate with dilute HCl and brine. The solvent was removed and the crude product was purified by flash chromatography using 20% EtAc in hexane as eluent. A mixture of 4.27 g of the trifluoroacetamide-protected product, a light brown solid, and 7.91 g of 3,4-bis(phenylethynyl)phenylamine (88%), a viscous brown oil, were isolated. The protected product could be quantitatively converted to the desired product by reacting it with a aqueous potassium carbonate solution.

reactant | phenyl acetylene | 128.68 mmol, 14.13 mL, 13.14 g | C1(=CC=CC=C1)C#C | C8H6
reactant | triphenyl phosphine | 8.57 mmol, 2.25 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
reactant | Et3N | 50 mL | CCN(CC)CC | C6H15N
catalyst | copper iodide | 1.71 mmol, 0.35 g | [Cu](I)I
product | 3,4-bis(phenylethynyl)phenylamine | 7.91 g, 88% | C1(=CC=CC=C1)C#CC=1C=C(C=CC1C#CC1=CC=CC=C1)N | C22H15N
